US08212041B2
(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanol
A mixture of 1-(6-phenylpyridazin-3-yl)hydrazine (2.00 g, 10.7 mmol), glycolic acid (0.825 g, 10.8 mmol), p-TsOH.H2O (2.55 g, 13.4 mmol) in PhMe (50 mL) was refluxed for 14 h. PhMe was removed in vacuo. The resulting solids were diluted with water (30 mL). The mixture was brought to pH˜10 with 2N NaOH. The solids were isolated solid by filtration, washed with water and dried under vacuum to give an off white solid which was used without further purification. (ESI, pos. ion) m/z: 227.0 (M+H).

reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 10.7 mmol, 2.00 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | glycolic acid | 10.8 mmol, 0.825 g | C(CO)(=O)O | C2H4O3
reactant | p-TsOH.H2O | 13.4 mmol, 2.55 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | PhMe | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanol | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CO | C12H10N4O
